US04677129
(a) 1-(4-aminophenyl)-5-ethyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 12a, 6.3 g of 5-ethyl-1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]-heptane-2,4-dione are dissolved in 120 ml of ethyl acetate, hydrogenated in the presence of 0.6 g of 5% palladium-on-carbon and worked up. Melting point 124.5°-125° (from ether).

reactant | 5-ethyl-1-(4-nitrophenyl)-3-n-propyl-3-azabicyclo[3.1.1]-heptane-2,4-dione | 6.3 g | C(C)C12C(N(C(C(C1)(C2)C2=CC=C(C=C2)[N+](=O)[O-])=O)CCC)=O | C17H20N2O4
reactant | ether | CCOCC | C4H10O
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 0.6 g | [Pd] | Pd
product | 1-(4-aminophenyl)-5-ethyl-3-n-propyl-3-azabicyclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)(C2)CC)=O)CCC)=O | C17H22N2O2
